US05068325
2.(3-(4-Methoxy-phenyl)propionyl-amino)-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
To a stirred mixture of 1.0 g (3.5 mmol) of 2-amino-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine and 0.53 ml (3.8 mmol) of triethylamine in 40 ml of anhydrous chloroform, there is added dropwise at ambient temperature a solution of 3- (4-methoxy-phenyl)-propionyl chloride (bp: 150° C./15 torr) in 7 ml of chloroform. The mixture is stirred for 3 hours at 60°-70° C., cooled and extracted with water. The dried and filtered chloroform solution is evaporated down in vacuo and the evaporation residue is purified by column chromatography on silica gel (chloroform/methanol=5:1). Yield: 0.74 g (47% of theory), Melting point: 168°-170° C. (ether).

reactant | 2-amino-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | 3.5 mmol, 1.0 g | NC=1SC=2CCN(CCC2N1)CC=CC=1C=NC=CC1 | C15H18N4S
reactant | triethylamine | 3.8 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | 3- (4-methoxy-phenyl)-propionyl chloride | COC1=CC=C(C=C1)CCC(=O)Cl | C10H11ClO2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | (3-(4-Methoxy-phenyl)propionyl-amino)-6-(3-(3-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | COC1=CC=C(C=C1)CCC(=O)NC=1SC=2CCN(CCC2N1)CC=CC=1C=NC=CC1 | C25H28N4O2S
